US06638929B2
4-Chlorobenzo[g]quinoline-3-carbonitrile
A reaction mixture of 3.5 g (16 mmol) of 4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile in 35 mL of phosphorus oxychloride and 22 drops of N,N-dimethylformamide (DMF) is heated at 100-110° C. for 5 hours. After cooling, the mixture is concentrated to dryness in vacuo to give a dark residue. The residue is partitioned between methylene chloride and ice-cooled saturated aqueous sodium carbonate solution. The organic layer is washed with ice-cooled brine and dried over sodium sulfate. The organic solvent is passed through a short column of silica gel, and further eluted with additional methylene chloride. Removal of the solvent yields 1.89 g (49.5%) of the product as a bright yellow solid, mp 253-255° C.

reactant | 4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | 16 mmol, 3.5 g | O=C1C(=CNC2=CC3=C(C=C12)C=CC=C3)C#N | C14H8N2O
reactant | phosphorus oxychloride | 35 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | N,N-dimethylformamide | 22 drops | CN(C=O)C | C3H7NO
product | 4-Chlorobenzo[g]quinoline-3-carbonitrile | 1.89 g, 49.5% | ClC1=C(C=NC2=CC3=C(C=C12)C=CC=C3)C#N | C14H7ClN2
